US05136042
In a similar apparatus to Example 1, 15.7 g (0.1 mole) of 2,4-dimethylthiazole-5-carboxylic acid were suspended in 100 ml of toluene, followed by the addition of 0.1 g of N,N-dimethylformamide. Under heating and reflux, phosgene was blown at a rate of 1.3 l/hr for 5 hours (0.29 mole). After completion of the reaction, the reaction mixture was filtered and the filtrate was concentrated to obtain 17.2 g of 2,4-dimethylthiazole-5-carboxylic acid chloride. Its purity and yield were 97.5% and 98.0%, respectively.

reactant | 2,4-dimethylthiazole-5-carboxylic acid | 0.1 mole, 15.7 g | CC=1SC(=C(N1)C)C(=O)O | C6H7NO2S
reactant | N,N-dimethylformamide | 0.1 g | CN(C=O)C | C3H7NO
reactant | phosgene | C(=O)(Cl)Cl | CCl2O
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
product | 2,4-dimethylthiazole-5-carboxylic acid chloride | 17.2 g | CC=1SC(=C(N1)C)C(=O)Cl | C6H6ClNOS
